US07112605B2
N-Cyclopropyl-β-hydroxy-4-chloro-phenethylamine
4-Chloro styrene oxide (1.24 g, 8.0 mmol) and 3 ml of cyclopropylamine in methanolic solution were charged into a flask. The flask was sealed and put in a refrigerator for 5–7 days. The solution was concentrated and the residue crystallized from ether, the title compound was obtained as white needle crystals, mp. 100.2–102° C., yield 54.5%.

reactant | 4-Chloro styrene oxide | 8.0 mmol, 1.24 g | ClC1=CC=C(C2CO2)C=C1 | C8H7ClO
reactant | cyclopropylamine | 3 ml | C1(CC1)N | C3H7N
product | N-Cyclopropyl-β-hydroxy-4-chloro-phenethylamine | yield 54.5% | C1(CC1)NCC(C1=CC=C(C=C1)Cl)O | C11H14ClNO
